US09281482B2
(1) Synthesis of 2-(7-bromo-9,9-dimethyl-9H-fluoren-2-yl)dibenzo[b,d]thiophene
2,7-dibromo-9,9-dimethyl-9H-fluorene (5.0 g, 14.201 mmol), dibenzo[b,d]thiophen-2-ylboronic acid (1.62 g, 7.10 mmol), Pd(pph3)4 (820 mg, 0.71 mmol), K2CO3 (1.96 g, 14.201 mmol) were put in a 250 mL two-neck flask and dissolved in toluene/H2O. The solution was refluxed and stirred for 12 hours. After completion of the reaction, the solution was distilled under reduced pressure to remove the solvent. The resultant was columned with a solution of hexane and methylenechloride (9:1). The solution was distilled under reduced pressure and was re-crystallized in a solution of methylene chloride and petroleum ether such that the white solid compound was obtained, (1.61 g, yield: 50%).

reactant | 2,7-dibromo-9,9-dimethyl-9H-fluorene | 14.201 mmol, 5.0 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(C)C | C15H12Br2
reactant | dibenzo[b,d]thiophen-2-ylboronic acid | 7.10 mmol, 1.62 g | C1=C(C=CC=2SC3=C(C21)C=CC=C3)B(O)O | C12H9BO2S
reactant | K2CO3 | 14.201 mmol, 1.96 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene H2O | C1(=CC=CC=C1)C.O
catalyst | Pd(pph3)4 | 0.71 mmol, 820 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 2-(7-bromo-9,9-dimethyl-9H-fluoren-2-yl)dibenzo[b,d]thiophene | yield: 50% | BrC1=CC=C2C=3C=CC(=CC3C(C2=C1)(C)C)C1=CC2=C(SC3=C2C=CC=C3)C=C1 | C27H19BrS
